US04447434
A mixture of 143 g (0.43 mol) of 5-bromoacetyl-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one and 400 ml of triethylphosphite was refluxed for 2 hours at 120° C., with stirring. In the course of the reaction, the 5-bromoacetyl compound went fully into solution and a grey precipitate began to settle out. After cooling, this was suction filtered and washed with ethyl acetate and 159 g (95% of theory) of 5-diethylphosphonoacetyl-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one were obtained; m.p. 195°-197° C.

reactant | 5-bromoacetyl-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one | 0.43 mol, 143 g | BrCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C15H11BrN2O2
reactant | triethylphosphite | 400 ml | C(C)OP(OCC)OCC | C6H15O3P
product | 5-diethylphosphonoacetyl-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one | 159 g, 95% | C(C)OP(=O)(OCC)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C19H21N2O5P
